2163-09-14 09:51:00 Physician Attending Progress Note
Chief Complaint: hypotension, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2163-9-14**] 03:16 AM
 FEVER - 102.9
F - [**2163-9-14**] 05:00 AM
   Allergies:
   Penicillins
   Rash; Shortness
   Shellfish
   Unknown; Shortn
   Last dose of Antibiotics:
   Clindamycin - [**2163-9-14**] 05:49 AM
   Linezolid - [**2163-9-14**] 06:03 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-9-14**] 08:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-9-14**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37.2
C (99
   HR: 95 (95 - 120) bpm
   BP: 93/52(63) {79/41(52) - 115/74(80)} mmHg
   RR: 14 (13 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,150 mL
                                                                    270 mL
   PO:
                                                                    100 mL
                                                                    180 mL
   TF:
   IVF:
                                                                     50 mL
                                                                     90 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,150 mL
                                                                    270 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   Labs / Radiology
   12.0 g/dL
   86 K/uL
   78 mg/dL
   11.4 mg/dL
   23 mEq/L
   4.5 mEq/L
   54 mg/dL
   104 mEq/L
   139 mEq/L
   35.9 %
   6.9 K/uL
        [image002.jpg]
                             [**2163-9-14**]  03:13 AM
   WBC
   6.9
   Hct
   35.9
   Plt
   86
   Cr
   11.4
   Glucose
   78
   Other labs: PT / PTT / INR:18.3/41.7/1.7, Lactic Acid:2.0 mmol/L,
   Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   33 yo male with ESRD admitted for uncontrolled acute low back pain, now
   transferred to MICU in setting of hypotension w/ fevers.
   .
   # Hypotension: pt reports baseline low BP, particularly after HD--BP
   will drop into 80s w/o sx's on regular basis, according to pt.
   However, given clinical picture of back pain & fevers, sepsis is
   possible.  Pt got vanc & gent, written for clinda as well.
   - F/u bld cx; con't vanc/gent w/ HD (will check vanc level) & clinda
   (for anaerobes); if pt con't to [**Last Name (LF) 1694**], [**First Name3 (LF) 178**] consider adding VRE
   coverage
   - TTE re: ? endocarditis given valve hx
   - CXR
   .
   # Back pain- Persistent for mult days.  Tender along sacrum (though
   also along musculature of low back & gluteals).  No s/o cord
   compromise.  However, given fevers & h/o prior endocarditis, need to
   r/o infectious etiology.
   - MRI Lspine (will get non-contrast tonight as pt's BP still somewhat
   tenuous and undergoing HD might worsen his hypotension).  Will repeat
   imaging w/ Gad during day if BP stabilizes
   - pain control
   - check CRP & ESR
   .
   # Cardiac
   1. vessels- cath in [**2161**] w/diffuse atherosclerosis, no flow limiting
   disease.
   - continue aspirin, statin, hold beta-blocker
   2. pump- echo in [**7-26**] with global hypokinesis, EF 45% and cath in [**2161**]
   with evidence of diastolic dysfunction. Currently appears on dry side.
   - hold ACE, beta-blocker
   3. Valves- mod AR, concern that AR has worsened, pt underwent cardiac
   MR [**First Name (Titles) **] [**Last Name (Titles) **]
   - continue current management, f/u MR findings; consider
   4. Rhythm- sinus
   .
   # HTN- BP well controlled on current regimen
   .
   # ESRD- dialysis MWF. Followed by Dr. [**Last Name (STitle) 2759**].
   Continue renagel, fosrenal. Renal following, appreciate recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-9-14**] 05:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2163-09-15 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2163-9-14**] 09:36 AM
   Performed at bedside.
 FEVER - 102.2
F - [**2163-9-14**] 01:00 PM, persistently febrile
   High grade bacteremia with 10/12 blood cultures positive for GPCs
   ID consulted, recommends keeping pt on vanc and gent dosed by
   level/after HD.
   Pt had MRI of spine though without gad, rads attending confident that
   there was no evidence of osteomyelitis or epidural abscess and that
   pain symptoms most consistent with radiculopathy visualized on scan.
   TTE showed no evidence of vegetations
   HD yesterday, no UF removed due to borderline hypotension.
   Allergies:
   Penicillins
   Rash; Shortness
   Shellfish
   Unknown; Shortn
   Last dose of Antibiotics:
   Linezolid - [**2163-9-14**] 06:03 AM
   Clindamycin - [**2163-9-14**] 02:03 PM
   Daptomycin - [**2163-9-14**] 06:05 PM
   Gentamicin - [**2163-9-14**] 10:00 PM
   Vancomycin - [**2163-9-14**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-9-14**] 04:03 PM
   Other medications:
   Flowsheet Data as of  [**2163-9-15**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 36.5
C (97.7
   HR: 81 (81 - 122) bpm
   BP: 100/62(71) {93/50(62) - 126/95(98)} mmHg
   RR: 12 (9 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,242 mL
                                                                     65 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                    582 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                    150 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,092 mL
                                                                     65 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   GEN: awake, [**Last Name (un) **] lying in bed, appears comfortable
   HEENT: atraumatic, anicteric, dry mucosa
   CV: RRR, 3/6 systolic murmur, no rub
   NECK: no JVD
   LUNGS: CTA B/L with good inspiratory effort
   ABD: soft, nt, nd, nabs. No organomegaly or masses appreciated
   EXT: LUE fistula with palpable thrill and audible bruit. No [**Location (un) **].
   BACK: + point tenderness over vertebral bodies L4-S1, some paraspinal
   tenderness B/L-->gluteals. No flank tenderness. SKIN: warm, dry, no
   rash
   NEURO: A/OX3. CN II-XII intact, [**5-23**] proximal muscle strength UEs.  [**5-23**]
   b/l hipflex/ext; knee flex/ext; foot plantar- & dorsiflexion.  2+
   patellar b/l & achilles.  Tactile sensation intact and symmetric B/L on
   LE & along torso
   RECTAL: normal tone
   Skin: no rash; Fistula on L arm w/o erythema or e/o abscess
   Labs / Radiology
   62 K/uL
   11.7 g/dL
   78 mg/dL
   11.4 mg/dL
   23 mEq/L
   4.5 mEq/L
   54 mg/dL
   104 mEq/L
   139 mEq/L
   33.8 %
   4.5 K/uL
        [image002.jpg]
                             [**2163-9-14**]  03:13 AM
                             [**2163-9-14**]  08:14 PM
   WBC
   6.9
   4.5
   Hct
   35.9
   33.8
   Plt
   86
   62
   Cr
   11.4
   Glucose
   78
   Other labs: PT / PTT / INR:18.1/75.1/1.7, Differential-Neuts:84.1 %,
   Lymph:9.7 %, Mono:5.5 %, Eos:0.3 %, D-dimer:1382 ng/mL, Fibrinogen:493
   mg/dL, Lactic Acid:1.8 mmol/L, Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
   33 yo male with ESRD admitted for uncontrolled acute low back pain, now
   w/ gram-positive cocci sepsis.
   # Sepsis: GPCs in [**10-28**] bottles.  Source still unclear.
   - con
t vanc/gent & check levels (gent peak & trough
see pharm note)
   - Daily cx
s until pt clear for mult days
   - TEE today
   - Daily EKG to monitor PR/QRS interval
   # Hypotension: pt reports baseline low BP, particularly after HD--BP
   will drop into 80s w/o sx's on regular basis, according to pt.
   However, given clinical picture of back sepsis, suspect this was the
   cause.  Now improved.
   - hold bp meds
   # Back pain- Persistent for mult days.  Tender along sacrum (though
   also along musculature of low back & gluteals).  No s/o cord
   compromise.  However, given fevers & h/o prior endocarditis, need to
   r/o infectious etiology. MRI Lspine non-contrast w/o e/o discitis,
   osteo, or abscess.  Decision made to hold on contrast MR as initial
   results make infectious cause very unlikely
discussed this issue at
   length w/ radiology attg
   - pain control
   .
   # Thrombocytopenia: plts have nearly halved since admission.
   - send HIT antibody
   # Cardiac
   1. vessels- cath in [**2161**] w/diffuse atherosclerosis, no flow limiting
   disease.
   - continue aspirin, statin, hold beta-blocker
   2. pump- echo in [**7-26**] with global hypokinesis, EF 45% and cath in [**2161**]
   with evidence of diastolic dysfunction. Currently appears on dry side.
   - hold ACE, beta-blocker
   3. Valves- mod AR, concern that AR has worsened, pt underwent cardiac
   MR [**First Name (Titles) **] [**Last Name (Titles) **]
   - continue current management, f/u MR findings; consider
   4. Rhythm- sinus  tach
   .
   # HTN- holding anti-hypertensives
   .
   # ESRD- dialysis MWF. Followed by Dr. [**Last Name (STitle) 2759**].
   Continue renagel, fosrenal. Renal following, appreciate recs
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-9-14**] 05:50 AM
   Prophylaxis:
   DVT: hold sc heparin since checking HIT ab; pneumoboots
   Communication:  Comments:
   Code status: Full code
   Disposition: possible c/o later in day pending stability

2163-09-15 08:02:00 Physician Resident Progress Note
24 Hour Events:
 TRANSTHORACIC ECHO - At [**2163-9-14**] 09:36 AM
   Performed at bedside.
 FEVER - 102.2
F - [**2163-9-14**] 01:00 PM, persistently febrile
   High grade bacteremia with 10/12 blood cultures positive for GPCs
   ID consulted, recommends keeping pt on vanc and gent dosed by
   level/after HD.
   Pt had MRI of spine though without gad, rads attending confident that
   there was no evidence of osteomyelitis or epidural abscess and that
   pain symptoms most consistent with radiculopathy visualized on scan.
   TTE showed no evidence of vegetations
   HD yesterday, no UF removed due to borderline hypotension.
   Allergies:
   Penicillins
   Rash; Shortness
   Shellfish
   Unknown; Shortn
   Last dose of Antibiotics:
   Linezolid - [**2163-9-14**] 06:03 AM
   Clindamycin - [**2163-9-14**] 02:03 PM
   Daptomycin - [**2163-9-14**] 06:05 PM
   Gentamicin - [**2163-9-14**] 10:00 PM
   Vancomycin - [**2163-9-14**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-9-14**] 04:03 PM
   Other medications:
   Flowsheet Data as of  [**2163-9-15**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 36.5
C (97.7
   HR: 78 (78 - 122) bpm
   BP: 103/61(70) {93/50(62) - 126/95(98)} mmHg
   RR: 12 (9 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,242 mL
                                                                     80 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                    582 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                    150 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,092 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.5 g/dL
   59 K/uL
   85 mg/dL
   8.1 mg/dL
   26 mEq/L
   4.8 mEq/L
   35 mg/dL
   100 mEq/L
   137 mEq/L
   34.1 %
   4.7 K/uL
        [image002.jpg]
                             [**2163-9-14**]  03:13 AM
                             [**2163-9-14**]  08:14 PM
                             [**2163-9-15**]  03:28 AM
   WBC
   6.9
   4.5
   4.7
   Hct
   35.9
   33.8
   34.1
   Plt
   86
   62
   59
   Cr
   11.4
   8.1
   Glucose
   78
   85
   Other labs: PT / PTT / INR:15.1/75.1/1.3, Differential-Neuts:84.1 %,
   Lymph:9.7 %, Mono:5.5 %, Eos:0.3 %, D-dimer:1382 ng/mL, Fibrinogen:493
   mg/dL, Lactic Acid:1.8 mmol/L, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
   33 yo male with ESRD admitted for uncontrolled acute low back pain, now
   transferred to MICU in setting of hypotension w/ fevers.
   .
   # Sepsis: GPCs in [**10-28**] bottles.
   -          con
t vanc/gent
   -          TEE
   -          Daily cx
   # Hypotension: pt reports baseline low BP, particularly after HD--BP
   will drop into 80s w/o sx's on regular basis, according to pt.
   However, given clinical picture of back pain & fevers, sepsis is
   possible.  Pt got vanc & gent, written for clinda as well.
   - F/u bld cx; con't vanc/gent w/ HD (will check vanc level) & clinda
   (for anaerobes); if pt con't to [**Last Name (LF) 1694**], [**First Name3 (LF) 178**] consider adding VRE
   coverage
   - TTE re: ? endocarditis given valve hx
   - CXR
   .
   # Back pain- Persistent for mult days.  Tender along sacrum (though
   also along musculature of low back & gluteals).  No s/o cord
   compromise.  However, given fevers & h/o prior endocarditis, need to
   r/o infectious etiology.
   - MRI Lspine (will get non-contrast tonight as pt's BP still somewhat
   tenuous and undergoing HD might worsen his hypotension).  Will repeat
   imaging w/ Gad during day if BP stabilizes
   - pain control
   - check CRP & ESR
   .
   # Thrombocytopenia: plts have nearly halved since admission.
   - Check DIC labs & HIT ab
   # Cardiac
   1. vessels- cath in [**2161**] w/diffuse atherosclerosis, no flow limiting
   disease.
   - continue aspirin, statin, hold beta-blocker
   2. pump- echo in [**7-26**] with global hypokinesis, EF 45% and cath in [**2161**]
   with evidence of diastolic dysfunction. Currently appears on dry side.
   - hold ACE, beta-blocker
   3. Valves- mod AR, concern that AR has worsened, pt underwent cardiac
   MR [**First Name (Titles) **] [**Last Name (Titles) **]
   - continue current management, f/u MR findings; consider
   4. Rhythm- sinus  tach
   .
   # HTN- BP well controlled on current regimen
   .
   # ESRD- dialysis MWF. Followed by Dr. [**Last Name (STitle) 2759**].
   Continue renagel, fosrenal. Renal following, appreciate recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-9-14**] 05:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2163-09-15 08:02:00 Physician Attending Progress Note
24 Hour Events:
 TRANSTHORACIC ECHO - At [**2163-9-14**] 09:36 AM
   Performed at bedside.
 FEVER - 102.2
F - [**2163-9-14**] 01:00 PM
   Allergies:
   Penicillins
   Rash; Shortness
   Shellfish
   Unknown; Shortn
   Last dose of Antibiotics:
   Linezolid - [**2163-9-14**] 06:03 AM
   Clindamycin - [**2163-9-14**] 02:03 PM
   Daptomycin - [**2163-9-14**] 06:05 PM
   Gentamicin - [**2163-9-14**] 10:00 PM
   Vancomycin - [**2163-9-14**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-9-14**] 04:03 PM
   Other medications:
   Flowsheet Data as of  [**2163-9-15**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 36.5
C (97.7
   HR: 78 (78 - 122) bpm
   BP: 103/61(70) {93/50(62) - 126/95(98)} mmHg
   RR: 12 (9 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,242 mL
                                                                     80 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                    582 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                    150 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,092 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.5 g/dL
   59 K/uL
   85 mg/dL
   8.1 mg/dL
   26 mEq/L
   4.8 mEq/L
   35 mg/dL
   100 mEq/L
   137 mEq/L
   34.1 %
   4.7 K/uL
        [image002.jpg]
                             [**2163-9-14**]  03:13 AM
                             [**2163-9-14**]  08:14 PM
                             [**2163-9-15**]  03:28 AM
   WBC
   6.9
   4.5
   4.7
   Hct
   35.9
   33.8
   34.1
   Plt
   86
   62
   59
   Cr
   11.4
   8.1
   Glucose
   78
   85
   Other labs: PT / PTT / INR:15.1/75.1/1.3, Differential-Neuts:84.1 %,
   Lymph:9.7 %, Mono:5.5 %, Eos:0.3 %, D-dimer:1382 ng/mL, Fibrinogen:493
   mg/dL, Lactic Acid:1.8 mmol/L, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
   33 yo male with ESRD admitted for uncontrolled acute low back pain, now
   transferred to MICU in setting of hypotension w/ fevers.
   .
   # Sepsis: GPCs in [**10-28**] bottles.
   -          con
t vanc/gent
   -          TEE
   # Hypotension: pt reports baseline low BP, particularly after HD--BP
   will drop into 80s w/o sx's on regular basis, according to pt.
   However, given clinical picture of back pain & fevers, sepsis is
   possible.  Pt got vanc & gent, written for clinda as well.
   - F/u bld cx; con't vanc/gent w/ HD (will check vanc level) & clinda
   (for anaerobes); if pt con't to [**Last Name (LF) 1694**], [**First Name3 (LF) 178**] consider adding VRE
   coverage
   - TTE re: ? endocarditis given valve hx
   - CXR
   .
   # Back pain- Persistent for mult days.  Tender along sacrum (though
   also along musculature of low back & gluteals).  No s/o cord
   compromise.  However, given fevers & h/o prior endocarditis, need to
   r/o infectious etiology.
   - MRI Lspine (will get non-contrast tonight as pt's BP still somewhat
   tenuous and undergoing HD might worsen his hypotension).  Will repeat
   imaging w/ Gad during day if BP stabilizes
   - pain control
   - check CRP & ESR
   .
   # Thrombocytopenia: plts have nearly halved since admission.
   - Check DIC labs & HIT ab
   # Cardiac
   1. vessels- cath in [**2161**] w/diffuse atherosclerosis, no flow limiting
   disease.
   - continue aspirin, statin, hold beta-blocker
   2. pump- echo in [**7-26**] with global hypokinesis, EF 45% and cath in [**2161**]
   with evidence of diastolic dysfunction. Currently appears on dry side.
   - hold ACE, beta-blocker
   3. Valves- mod AR, concern that AR has worsened, pt underwent cardiac
   MR [**First Name (Titles) **] [**Last Name (Titles) **]
   - continue current management, f/u MR findings; consider
   4. Rhythm- sinus  tach
   .
   # HTN- BP well controlled on current regimen
   .
   # ESRD- dialysis MWF. Followed by Dr. [**Last Name (STitle) 2759**].
   Continue renagel, fosrenal. Renal following, appreciate recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-9-14**] 05:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2163-09-15 09:47:00 Physician Attending Progress Note
Chief Complaint: sepsis and bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   esrd with AVR and now recurrent high grade bacteremia
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2163-9-14**] 09:36 AM
   Performed at bedside. No vegetations
 FEVER - 102.2
F - [**2163-9-14**] 01:00 PM
   For TEE this AM
   Allergies:
   Penicillins
   Rash; Shortness
   Shellfish
   Unknown; Shortn
   Last dose of Antibiotics:
   Linezolid - [**2163-9-14**] 06:03 AM
   Clindamycin - [**2163-9-14**] 02:03 PM
   Daptomycin - [**2163-9-14**] 06:05 PM
   Vancomycin - [**2163-9-14**] 10:00 PM
   Gentamicin - [**2163-9-14**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-9-15**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2163-9-15**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 36.8
C (98.3
   HR: 83 (78 - 122) bpm
   BP: 109/77(84) {93/50(62) - 126/95(98)} mmHg
   RR: 13 (9 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,242 mL
                                                                     97 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                    582 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                    150 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,092 mL
                                                                     97 mL
   Respiratory support
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.5 g/dL
   59 K/uL
   85 mg/dL
   8.1 mg/dL
   26 mEq/L
   4.8 mEq/L
   35 mg/dL
   100 mEq/L
   137 mEq/L
   34.1 %
   4.7 K/uL
        [image002.jpg]
                             [**2163-9-14**]  03:13 AM
                             [**2163-9-14**]  08:14 PM
                             [**2163-9-15**]  03:28 AM
   WBC
   6.9
   4.5
   4.7
   Hct
   35.9
   33.8
   34.1
   Plt
   86
   62
   59
   Cr
   11.4
   8.1
   Glucose
   78
   85
   Other labs: PT / PTT / INR:15.1/75.1/1.3, Differential-Neuts:84.1 %,
   Lymph:9.7 %, Mono:5.5 %, Eos:0.3 %, D-dimer:1382 ng/mL, Fibrinogen:493
   mg/dL, Lactic Acid:1.8 mmol/L, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
   33 yo male with ESRD admitted for uncontrolled acute low back pain, now
   transferred to MICU in setting of hypotension w/ fevers.
   .
   # GPC bactermia
 high grade- persistent fever with resolution of
   hypotension except for during HD yesterday. Continue Vanc and Gent with
   HD.  TEE re: ? endocarditis given valve hx
   # Back pain- Persistent for multi days.  Tender along sacrum (though
   also along musculature of low back & gluteals).  No s/o cord
   compromise.  However, given fevers & h/o prior endocarditis, need to
   r/o infectious etiology.
   - MRI L spine last night non con no overt epidural
no further imiagin
   needed as discussed with - pain control
   - check CRP & ESR
   .
   # Cardiac
   Valves- mod AR, concern that AR has worsened, pt underwent cardiac MR
   last wk
 Dr [**Last Name (STitle) **] aware. TEE today to assess valve function and question
   veg
   # ESRD- dialysis MWF. Followed by Dr. [**Last Name (STitle) 2759**].
   Continue renagel, fosrenal. Renal following, appreciate recs
   ICU Care
   Nutrition: NPO for TEE
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-9-14**] 05:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2163-09-15 09:57:00 Physician Attending Progress Note
Chief Complaint:
   HPI: I saw and examined the patient, and was physically present with
   the ICU Resident for key portions of the services provided.  I agree
   with his / her note above, including assessment and plan. 33 yo male
   with ESRD admitted for uncontrolled acute low back pain, now
   transferred to MICU in setting of hypotension w/ fevers and high grade
   Bacteremia source unclear at this time.
   24 Hour Events:Fever spikes no acute issues
 TRANSTHORACIC ECHO - At [**2163-9-14**] 09:36 AM
   Performed at bedside.
 FEVER - 102.2
F - [**2163-9-14**] 01:00 PM
   Allergies:
   Penicillins
   Rash; Shortness
   Shellfish
   Unknown; Shortn
   Last dose of Antibiotics:
   Linezolid - [**2163-9-14**] 06:03 AM
   Clindamycin - [**2163-9-14**] 02:03 PM
   Daptomycin - [**2163-9-14**] 06:05 PM
   Vancomycin - [**2163-9-14**] 10:00 PM
   Gentamicin - [**2163-9-14**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-9-15**] 08:30 AM
   Vit B
   Lanthanum
   Renagel
   Lipitor
   Asa 162
   Lidocain patch
   Tylenol
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Continue back pain no changes.
   Flowsheet Data as of  [**2163-9-15**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 36.8
C (98.3
   HR: 83 (78 - 122) bpm
   BP: 109/77(84) {93/50(62) - 126/95(98)} mmHg
   RR: 13 (9 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,242 mL
                                                                     97 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                    582 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                    150 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,092 mL
                                                                     97 mL
   Respiratory support
   SpO2: 98%
   ABG: ///26/
   Physical Examination Gen: NAD HEENT: PERRL, EOMI, Lungs: CTA
   bilaterally,  CV: RRR s1s2 +SEM and diastolic EM,  Abd: Soft, ND, ND
   Ext: No c/c/e or evidence of embolic disease.  Back: No focal point
   tenderness, no weakness or sensory deficits bilateral LE.  Fistula CDI.
   Labs / Radiology
   11.5 g/dL
   59 K/uL
   85 mg/dL
   8.1 mg/dL
   26 mEq/L
   4.8 mEq/L
   35 mg/dL
   100 mEq/L
   137 mEq/L
   34.1 %
   4.7 K/uL
        [image002.jpg]
                             [**2163-9-14**]  03:13 AM
                             [**2163-9-14**]  08:14 PM
                             [**2163-9-15**]  03:28 AM
   WBC
   6.9
   4.5
   4.7
   Hct
   35.9
   33.8
   34.1
   Plt
   86
   62
   59
   Cr
   11.4
   8.1
   Glucose
   78
   85
   Other labs: PT / PTT / INR:15.1/75.1/1.3, Differential-Neuts:84.1 %,
   Lymph:9.7 %, Mono:5.5 %, Eos:0.3 %, D-dimer:1382 ng/mL, Fibrinogen:493
   mg/dL, Lactic Acid:1.8 mmol/L, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
   33 yo male with ESRD admitted for uncontrolled acute low back pain, now
   transferred to MICU in setting of hypotension w/ fevers and high grade
   bacteremia.
   #1) Hypotension: likely sepsis given fevers after HD and fluid
   responsive, Sources
 endocarditis, infected thrombi, epidural abcess
   ruled out, consider fistula as source consider US/MRI F/u bld cx; con't
   vanc/gent w/ HD (will check vanc level) and random Gent level if pt
   con't to [**Last Name (LF) 1694**], [**First Name3 (LF) 178**] consider adding VRE coverage- TEE pending:
   endocarditis given valve hx- needs CXR this AM
   #2) Back pain- Persistent for multi days.  Tender along sacrum (though
   also along musculature of low back & gluteals).  No s/o cord
   compromise.  However, given fevers & h/o prior endocarditis, need to
   r/o infectious etiology.- MRI L spine last night non con no overt
   epidural
 per radiology no need for MRI with gad.  No evidence of
   edema or fluid collection necessitating contrast.
   #3) thrombocytopenia-DIC negative will check HIT consider heme
   consult.  Will check US to evaluate for thrombosis if evidence of new
   thrombosis would consider argatroban.
   #4) Cardiac  Valves- mod AR, concern that AR has worsened, pt underwent
   cardiac MR [**First Name (Titles) **] [**Last Name (Titles) **]
 Dr [**Last Name (STitle) **] aware Continue current management, f/u MR
   findings.  Continuing to hold antihypertensive meds
   #5) ESRD- dialysis MWF. Followed by Dr. [**Last Name (STitle) 2759**].-Continue renagel,
   fosrenal. Renal following, appreciate recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-9-14**] 05:50 AM
   Prophylaxis:
   DVT: Holding SQ heprin until HIT issue resolved.
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Floor
   Total time spent: